US09302984B2
(1R,3S)-Methyl 3-(2′,4′-difluorobiphenyl-4-ylsulfonamido)cyclopentanecarboxylate (ABD773a)
Using a method analogous to Method A, using (1R,3S)-methyl 3-aminocyclopentanecarboxylate and 2′,4′-difluorobiphenyl-4-sulphonyl chloride, the title compound was obtained as a pale yellow gum.

reactant | (1R,3S)-methyl 3-aminocyclopentanecarboxylate | N[C@@H]1C[C@@H](CC1)C(=O)OC | C7H13NO2
reactant | 2′,4′-difluorobiphenyl-4-sulphonyl chloride | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H7ClF2O2S
product | (1R,3S)-Methyl 3-(2′,4′-difluorobiphenyl-4-ylsulfonamido)cyclopentanecarboxylate | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)N[C@@H]1C[C@@H](CC1)C(=O)OC | C19H19F2NO4S
